US05925339
N-BOC-glutamin-benzylester
147 g N-BOC-glutamin (t-butyloxycarbonyl-glutamin), 77 g benzylchloride and 4 g benzylbromide were refluxed in 600 ml tetrahydrofuran for 2.5 hours in the presence of a 5% excess of diazabicycloundecene. After the removal of the solvent, the residue was taken up in water-ethylacetate and washed with citric acid, sodium bicarbonate and water. Evaporating of the solvent and recrystallization from ethylacetate-hexane gave 120 g white crystals. NMR (DMSO-d6) among others: 7.36 (s,5H), 5.12 (dxd,2H), 3.989 (m,1H), 2.15 (t,2H), 1.38 (s,9H).

reactant | N-BOC-glutamin | 147 g | C(=O)(OC(C)(C)C)N[C@@H](CCC(N)=O)C(=O)O | C10H18N2O5
reactant | benzylchloride | 77 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | diazabicycloundecene | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
catalyst | benzylbromide | 4 g | C(C1=CC=CC=C1)Br | C7H7Br
product | N-BOC-glutamin-benzylester | 120 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CCC(N)=O)=O | C17H24N2O5
